US08859596B2
4,4,4-trifluorobutyl 4-methylbenzenesulfonate
To a solution of 4,4,4-trifluorobutan-1-ol (5.0 g, 39.0 mmol) in CH2Cl2 (30 mL) and pyridine (20 mL) was added 4-(dimethylamino)pyridine (0.24 g, 2.0 mmol) followed by p-toluenesulfonyl chloride (7.4 g, 39.0 mmol). The mixture was allowed to stir at ambient temperature for 20 hours then was quenched with 5% aqueous HCl (20 mL) and the layers were separated. The aqueous phase was extracted with CH2Cl2 (3×5 mL). The combined organic extracts were dried over Na2SO4, filtered and concentrated under reduced pressure. Purification by column chromatography (SiO2, 75% hexanes in EtOAc) afforded the title compound (5.0 g, 17.7 mmol, 45% yield). 1H NMR (300 MHz, CDCl3) δ ppm 1.86-1.98 (m, 2H) 2.06-2.24 (m, 2H) 2.46 (s, 3H) 4.09 (t, J=5.9 Hz, 2H) 7.37 (d, J=7.8 Hz, 2H) 7.79 (d, J=8.5 Hz, 2H).

reactant | 4,4,4-trifluorobutan-1-ol | 39.0 mmol, 5.0 g | FC(CCCO)(F)F | C4H7F3O
reactant | p-toluenesulfonyl chloride | 39.0 mmol, 7.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-(dimethylamino)pyridine | 2.0 mmol, 0.24 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4,4,4-trifluorobutyl 4-methylbenzenesulfonate | 17.7 mmol, 5.0 g, 45% yield | CC1=CC=C(C=C1)S(=O)(=O)OCCCC(F)(F)F | C11H13F3O3S
